US05021449
Resolution of (±)2-aminomethyl-1-ethylpyrrolidine (+)2-aminomethyl-1-ethylpyrrolidine
(-)2-Aminomethyl-1-ethylpyrrolidine was similarly prepared using D(-) tartaric acid as resolving agent. b15 ~62° (9.4 g) (α)58925 =-151° (50% chloroform).

reactant | (-)2-Aminomethyl-1-ethylpyrrolidine | NCC1N(CCC1)CC | C7H16N2
reactant | tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (±)2-aminomethyl-1-ethylpyrrolidine (+)2-aminomethyl-1-ethylpyrrolidine | NCC1N(CCC1)CC.NCC1N(CCC1)CC | 2C7H16N2
